US05866611
1M aqueous hydrochloric acid (2 ml) was added to 3-allyl-4-(3-[N-isopropylamino]propoxy)benzaldehyde, 2-(1,3-dioxane)acetal (200 mg) and stirred for 16 hours at ambient temperature. The reaction mixture was evaporated and the residue purified by flash column chromatography on silica gel (Merck Art No 9385) using a 90:8:2 (v/v/v) mixture of ethyl acetate/methanol/ammonia (density=0.88 g/cm 3) as eluent. The crude product obtained was dissolved in ethanol, acidified with saturated ethanolic hydrogen chloride solution and evaporated to give a residue which was crystallised from ethyl acetate to give 3-allyl 4-(3-[N-isopropylamino]propoxy)benzaldehyde hydrogen chloride (133 mg) as a solid, m.p. 109.1° C.; microanalysis, found; C, 62.6; H, 8.2; N, 4.6%; C16H23NO2. HCl 0.5H2O, C, 62.6; H, 8.1; N, 4.6%; NMR([CD3 ]12SO): 1.4-1.6(6H,d), 1.7-2.0(2H,m), 3.2-3.5(3H,m), 3.8-4.3(2H,m), 4.9-5.1(2H,m), 5.8-6.1(1H,m), 6.9-7.0(1H,d), 7.65-7.8(2H,m), 9.4-9.8(2H, br s) and 9.85(1H,s); m/z 262(M+H).

reactant | hydrochloric acid | 1M, 2 ml | Cl | ClH
reactant | 3-allyl-4-(3-[N-isopropylamino]propoxy)benzaldehyde | C(C=C)C=1C=C(C=O)C=CC1OCCCNC(C)C | C16H23NO2
solvent | ethanol | C(C)O | C2H6O
product | 3-allyl 4-(3-[N-isopropylamino]propoxy)benzaldehyde hydrogen chloride | 133 mg | Cl.C(C=C)C=1C=C(C=O)C=CC1OCCCNC(C)C | InChI=1S/C16H23NO2.ClH/c1-4-6-15-11-14(12-18)7-8-16(15)19-10-5-9-17-13(2)3;/h4,7-8,11-13,17H,1,5-6,9-10H2,2-3H3;1H
